US05677306
The procedure is carried out as in Example 1 but starting with 0.46 g of 1-[5-(1-imidazolyl)-1-oxo-2-indanyl]imidazole-2-carboxamide, a total of 35 ml of methanol and 7 ml of a 12N aqueous hydrochloric acid solution. 0.23 of 8-(1-imidazolyl)-5H, 10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one hydrochloride is thus obtained which decomposes without melting above 300° C. [NMR spectrum: (200 MHz; DMSO-d6 ; δ in ppm): 4.18 (s, 2H: --CH2-- in position 10); 7.71 and from 8.00 to 8.15 (broad s and mt respectively, 1H for the s: --H of imidazole); 7.88 (dd, J=8 and 2 Hz 1H: --H7); 7.96 and 8.34 (2 mt, 1H each: --H4' and --H5' of imidazole in position 8); 8.08 (d, J=8 Hz: --H6); from 8.00 to 8.15 (mt: --H9); 9.73 (broad s, 1H: --H2' of imidazole in position 8); 12.65 (unresolved complex, 1H: --CONH--)].

reactant | 1-[5-(1-imidazolyl)-1-oxo-2-indanyl]imidazole-2-carboxamide | 0.46 g | N1(C=NC=C1)C=1C=C2CC(C(C2=CC1)=O)N1C(=NC=C1)C(=O)N | C16H13N5O2
reactant | hydrochloric acid | 12N | Cl | ClH
solvent | methanol | 35 ml | CO | CH4O
product | 8-(1-imidazolyl)-5H, 10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one hydrochloride | Cl.N1(C=NC=C1)C1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1 | InChI=1S/C16H11N5O.ClH/c22-16-15-18-4-6-21(15)13-8-10-7-11(20-5-3-17-9-20)1-2-12(10)14(13)19-16;/h1-7,9H,8H2,(H,19,22);1H
